US03976686
Step C: 1-Cyclohexenyl (2,3-dichloro-4-methoxyphenyl) ketone
1-Bromocyclohexyl (2,3-dichloro-4-methoxyphenyl) ketone (47.3 g., 0.13 mole), lithium chloride (16.5 g., 0.39 mole) and dimethylformamide (200 ml.) are heated at 90°C. for two hours, then poured into water (1 l.) to give 36.5 g. of 1-cyclohexenyl (2,3-dichloro-4 -methoxyphenyl) ketone which melts at 126°-129°C. after drying at 60°C. under vacuum for 16 hours.

reactant | 1-Bromocyclohexyl (2,3-dichloro-4-methoxyphenyl) ketone | 0.13 mole, 47.3 g | ClC1=C(C=CC(=C1Cl)OC)C(=O)C1(CCCCC1)Br | C14H15BrCl2O2
reactant | lithium chloride | 0.39 mole, 16.5 g | [Cl-].[Li+]
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 1 l | O | H2O
product | 1-Cyclohexenyl (2,3-dichloro-4-methoxyphenyl) ketone | ClC1=C(C=CC(=C1Cl)OC)C(=O)C1=CCCCC1 | C14H14Cl2O2
